US05525736
3-(2,4-Dimethoxybenzoyl)-propionic acid (11 h)
1,3-Dimethoxybenzene 10 h (99%, 6 eq) was reacted with succinic anhydride (99%, 1 eq) and AlCl3 (95%, 2 eq) for 19 h according to the general procedure. Recrystallization in EtOH gave white crystals of 11 h in 68% yield. 1H-NMR: 7.89 (d, 1H, J=8.7 Hz, Ar--H; 6.55 (dd, 1H, J=8.7 and 2.3 Hz, Ar--H); 6.46 (d, 1H, J=2.3 Hz, Ar--H); 3.91 (s, 3H, OCH3); 3.86 (s, 3H, OCH3); 3.30 (t, 2H, J=6.6 Hz, CH2CH2COOH); 2.73(t, 2H, J=6.6 Hz, CH2CH2COOH). 13C-NMR: 197.62; 164.79; 161.23; 132.96; 105.29; 98.31; 55.54; 55.47; 38.42; 28.67.

reactant | 1,3-Dimethoxybenzene | COC1=CC(=CC=C1)OC | C8H10O2
reactant | succinic anhydride | 1 eq | C1(CCC(=O)O1)=O | C4H4O3
reactant | AlCl3 | 2 eq | [Al+3].[Cl-].[Cl-].[Cl-]
product | 3-(2,4-Dimethoxybenzoyl)-propionic acid | 68% yield | COC1=C(C(=O)CCC(=O)O)C=CC(=C1)OC | C12H14O5
